US05641784
7-Benzyl-8-(3-oxocyclopentyl)-1,3-dipropylpurine-2,6-dione
10.0 g (0.031 mol) of 8-(3-oxocyclopentyl)-1,3-dipropyl-7H-purine-2,6-dione are dissolved in 30 ml of absolute dimethylformamide and after the addition of 4.6 g (0.033 mol) of potassium carbonate the mixture is stirred for 20 minutes at ambient temperature. 5.7 g (0.033 mol) of benzylbromide are added dropwise, the mixture is stirred for a further 40 minutes and the reaction is ended by the addition of water. The solution is evaporated down, the residue is taken up in water and extracted with dichloromethane. After drying and evaporation, the combined organic phases yield an oily residue which is purified on silica gel with a mixture of dichloromethane/methanol in the ratio 99:1 and then recrystallised from ethanol. 9.4 g (73.3% of theory) of the title compound are obtained in the form of colourless crystals, melting point: 145° C.

reactant | 8-(3-oxocyclopentyl)-1,3-dipropyl-7H-purine-2,6-dione | 0.031 mol, 10.0 g | O=C1CC(CC1)C1=NC=2N(C(N(C(C2N1)=O)CCC)=O)CCC | C16H22N4O3
reactant | potassium carbonate | 0.033 mol, 4.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylbromide | 0.033 mol, 5.7 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 7-Benzyl-8-(3-oxocyclopentyl)-1,3-dipropylpurine-2,6-dione | C(C1=CC=CC=C1)N1C(=NC=2N(C(N(C(C12)=O)CCC)=O)CCC)C1CC(CC1)=O | C23H28N4O3
